US08809339B2
2-nitro-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide
Into a 50-mL round-bottom flask, was placed a solution of 2-nitro-5-(piperidin-1-yl)benzoic acid (1.096 g, 4.38 mmol, 1.50 equiv) in dichloromethane (20 mL), 2-phenylpyrimidin-5-amine (500 mg, 2.92 mmol, 1.00 equiv), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (838 mg, 4.39 mmol, 1.50 equiv), and 4-dimethylaminopyridine (713 mg, 5.84 mmol, 2.00 equiv). The resulting solution was stirred overnight at 25° C. The reaction was diluted with 100 mL of water and the resulting mixture was extracted with 3×50 mL of dichloromethane. The organic layers were combined, washed with 1×100 mL of brine, dried over sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with PE:EA:CH2Cl2 (20:1:0-3:1:1). The product was obtained as 150 mg (11%) of a yellow solid.

reactant | 2-nitro-5-(piperidin-1-yl)benzoic acid | 4.38 mmol, 1.096 g, 1.50 equiv | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)N1CCCCC1 | C12H14N2O4
reactant | 2-phenylpyrimidin-5-amine | 2.92 mmol, 500 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC=C(C=N1)N | C10H9N3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.39 mmol, 838 mg, 1.50 equiv | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.84 mmol, 713 mg, 2.00 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 100 mL | O | H2O
product | 2-nitro-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide | 150 mg, 11% | [N+](=O)([O-])C1=C(C(=O)NC=2C=NC(=NC2)C2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C22H21N5O3
